US07763602B2
Step 1: 1-(phenyl)pentane-1,4-dione
To a well stirred suspension of anhydrous aluminium chloride (27.0 g, 205.9 mmol) in 126 ml of benzene was added 4-oxopentanoylchloride (23.0 g, 171.6 mmol) drop-wise, over a period of 30-35 minutes at room temperature (25-30° C.). The reaction mixture was stirred at the same temperature for 1 hour. After decomposition of the reaction mixture by the addition of solid ice and hydrochloric acid (10 ml) the precipitated solid was filtered and the filtrate evaporated on a rotary evaporator to remove all the solvents. The residue was dissolved in ethyl acetate (400 ml), washed with water (2×100 ml), brine (100 ml) and dried over anhydrous sodium sulfate and the solvent evaporated off. The crude product so obtained was chromatographed over silica gel (100-200 mesh) using chloroform as eluent to give 8.6 g (24.07%) of the title compound.

reactant | aluminium chloride | 205.9 mmol, 27.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-oxopentanoylchloride | 171.6 mmol, 23.0 g | O=C(CCC(=O)Cl)C | C5H7ClO2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | benzene | 126 ml | C1=CC=CC=C1 | C6H6
product | 1-(phenyl)pentane-1,4-dione | 8.6 g, 24.07% | C1(=CC=CC=C1)C(CCC(C)=O)=O | C11H12O2
